US06180627B2
2-[3-({[(2R)-1-isobutylpyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid hydrochloride
The title compound was prepared by a similar method to preparation 44 from benzyl 2-[3-chloro-5-({[(2R)-1-isobutylpyrrolidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate [see preparation 61] and palladium hydroxide, to afford the product as a oil. LRMS: 323 (MH+)

reactant | benzyl 2-[3-chloro-5-({[(2R)-1-isobutylpyrrolidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCC1)CC(C)C)=O)CC(=O)OCC1=CC=CC=C1)C | C23H31ClN4O3
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 2-[3-({[(2R)-1-isobutylpyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid hydrochloride | Cl.C(C(C)C)N1[C@H](CCC1)CNC=1C(N(C(=CN1)C)CC(=O)O)=O | InChI=1S/C16H26N4O3.ClH/c1-11(2)9-19-6-4-5-13(19)8-18-15-16(23)20(10-14(21)22)12(3)7-17-15;/h7,11,13H,4-6,8-10H2,1-3H3,(H,17,18)(H,21,22);1H/t13-;/m1./s1
